US06596445B1
38.1 1-[4-(4-Butyryl-phenylsulfanyl)-phenyl]-butan-1-one
Diphenylsulfide (33.3 ml, 0.20 mol) is added to a suspension of AlCl3 (54.7 g, 0.41 mol) in 350 ml of CH2Cl2. n-Butyryl chloride (41.4 ml, 0.40 mol) is added dropwise slowly in an ice bath and the reaction solution is stirred at room temperature for 15 h. Then, the reaction solution is poured into ice-water. The crude product is extracted with CH2Cl2, washed with 1N NaOH and brine, dried over MgSO4, and concentrated. The product is obtained as a white solid. 1H NMR (CDCl3), δ[ppm]: 1.00 (t, 6H), 1.77 (tq, 4H), 2.92 (t, 4H), 7.40 (d, 4H), 7.90 (d, 4H).

reactant | Diphenylsulfide | 0.20 mol, 33.3 ml | C1(=CC=CC=C1)SC1=CC=CC=C1 | C12H10S
reactant | AlCl3 | 0.41 mol, 54.7 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | n-Butyryl chloride | 0.40 mol, 41.4 ml | CCCC(=O)Cl | C4H7ClO
solvent | CH2Cl2 | 350 ml | C(Cl)Cl | CH2Cl2
product | 1-[4-(4-Butyryl-phenylsulfanyl)-phenyl]-butan-1-one | C(CCC)(=O)C1=CC=C(C=C1)SC1=CC=C(C=C1)C(CCC)=O | C20H22O2S
